US08193121B2
A mixture of 19.9 g (74.2 mmol) of methyl 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoate and 40.1 g (30% by weight, 223 mmol) of sodium methoxide in 250 ml of methanol was heated under reflux for 6 h. For work-up, the mixture was concentrated on a rotary evaporator, the residue was taken up in water and the mixture was extracted with dichloromethane. The organic phase was dried and the filtrate was freed from the solvent. This gave 15.9 g of methyl 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoate as residue. The aqueous phase from the extractive work-up was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and the filtrate was freed from the solvent. This gave an additional 3.80 g of methyl 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoate as residue.

reactant | methyl 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoate | 74.2 mmol, 19.9 g | FC1=C(C(=O)OC)C=CC(=C1SC)C(F)(F)F | C10H8F4O2S
reactant | sodium methoxide | 223 mmol, 40.1 g | C[O-].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | methyl 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoate | 3.80 g | COC1=C(C(=O)OC)C=CC(=C1SC)C(F)(F)F | C11H11F3O3S
